US04395350
0.6 g of 4-nitro-4'-(4-hydroxyphenyl)azobenzene was suspended in 40 ml of hot ethanol, placed in a sulfonation flask and rinsed with 10 ml of ethanol. Then, 0.336 g of 1-bromoheptane, 0.260 g of potassium carbonate and a spatula tip of sodium iodide were added and the dark brown suspension was stirred under reflux for 16 hours. Since starting material was still present, on additional 0.342 g of 1-bromoheptane and 0.260 g of potassium carbonate were added and the mixture was boiled under reflux for an additional 4 hours. Subsequently, the mixture was concentrated to dryness in vacuo, suspended in 30 ml of toluene and chromatographed on silica gel with 1.0 l of toluene and 0.8 l of toluene/acetone (2%). There was thus obtained 0.276 of 4-nitro-4'-(4-heptyloxy-phenyl)azobenzene which was recrystallized from methylene chloride/hexane: m.p. 146.9°-148.2° C.; cl.p. 257.7°-258.1° C.; smectic-nematic conversion 238.2° C.; ε252 =15480, ε294 =13830, ε390 =28180.

reactant | 4-nitro-4'-(4-hydroxyphenyl)azobenzene | 0.6 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H13N3O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-nitro-4'-(4-heptyloxy-phenyl)azobenzene | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC | C25H27N3O3
